US07897607B2
Methyl 2-(2,4-dimethylphenyl)-6-nitrobenzoate
A mixture containing 0.5 g (2.3 mmol) of methyl 2-chloro-6-nitrobenzoate, 0.76 g (3.5 mmol) of 2,4-dimethylphenyl boronic acid, 0.7 g (4.6 mmol) of cesium fluoride, and 0.27 g (0.23 mmol) of tetrakis(triphenylphosphine)palladium(0) in 10 ml of 1,2-dimethoxyethane was heated to 100° C. under a nitrogen atmosphere overnight. The reaction was cooled to room temperature, diluted with ethyl acetate and washed with saturated sodium bicarbonate. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with 20% ethyl acetate/hexanes gave 0.312 g (47%) of product.

reactant | methyl 2-chloro-6-nitrobenzoate | 2.3 mmol, 0.5 g | ClC1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | 2,4-dimethylphenyl boronic acid | 3.5 mmol, 0.76 g | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | cesium fluoride | 4.6 mmol, 0.7 g | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.23 mmol, 0.27 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 2-(2,4-dimethylphenyl)-6-nitrobenzoate | 0.312 g, 47% | CC1=C(C=CC(=C1)C)C1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C16H15NO4
